US08076329B2
A A mixture of 4-(4-hydroxyphenyl)-2-methylpyridine 1-oxide (55 mg), potassium carbonate (187 mg) and (3S)-1-(3-methanesulfonyloxypropyl)-3-methylpiperidine hydrochloride in N,N-dimethylformamide (3 mL) is heated at a temperature close to 65° C. overnight and cooled back to room temperature. Water (5 mL) is added; the solution is washed with methylcyclohexane (twice 10 mL) and concentrated under reduced pressure. The residue is purified by chromatography over silica gel (eluent dichloromethane/methanol from 95/5 to 80/20). Fraction containing the expected product are pooled and concentrated under reduced pressure. The crude base is diluted in ethanol, oxalic acid (7 mg) is added and solvent is removed under reduced pressure to give 32 mg of (3S)-2-methyl-4-{4-[3-(3-methylpiperidin-1-yl)propoxy]phenyl}pyridine 1-oxide, oxalate as a brown crystalline material.

reactant | 4-(4-hydroxyphenyl)-2-methylpyridine 1-oxide | 55 mg | OC1=CC=C(C=C1)C1=CC(=[N+](C=C1)[O-])C | C12H11NO2
reactant | potassium carbonate | 187 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3S)-1-(3-methanesulfonyloxypropyl)-3-methylpiperidine hydrochloride | Cl.CS(=O)(=O)OCCCN1C[C@H](CCC1)C
reactant | Water | 5 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (3S)-2-methyl-4-{4-[3-(3-methylpiperidin-1-yl)propoxy]phenyl}pyridine 1-oxide | 32 mg | CC1=[N+](C=CC(=C1)C1=CC=C(C=C1)OCCCN1C[C@H](CCC1)C)[O-] | C21H28N2O2
